US05070089
i) 1-(3,4,5-Trimethoxyphenyl)piperazine
11.9 g of 3,4,5-trimethoxyaniline, 11.6 g of bis-(2-chloroethyl)amine hydrochloride, 9 g of anhydrous potassium carbonate, and 48 ml of diglyme were mixed and refluxed under heating for 28 hours. The reaction mixture was cooled, and was added into 100 ml of water. A concentrated aqueous potassium hydroxide solution was added to the aqueous mixture until the mixture had pH 12. The aqueous solution was then extracted with ethyl acetate. The ethyl acetate portion was washed with water, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was purified by silica gel column chromatography to give 2.37 g of the desired compound as a brown oil.

reactant | 3,4,5-trimethoxyaniline | 11.9 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | bis-(2-chloroethyl)amine hydrochloride | 11.6 g | Cl.ClCCNCCCl
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 100 ml | O | H2O
solvent | diglyme | 48 ml | COCCOCCOC | C6H14O3
product | 1-(3,4,5-Trimethoxyphenyl)piperazine | 2.37 g | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
